US07947683B2
(1S,5R)-3-(4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}butyl)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride
(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (70 mg) and 4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}butyl methanesulfonate (70 mg) were dissolved in dimethylformamide (0.6 ml). Sodium Iodide (12 mg) and potassium carbonate (35 mg) were added. Reaction was heated at 60° C. for 20 h. Dichloromethane and NaHCO3 saturated solution were added. Solvent was removed, under reduced pressure, from organic phase. Crude was purified by silica column to give the free base of the title compound (5.5 mg). To a solution of this compound in DCM (0.5 mL), HCl 1N in diethylether (0.012 mL) was added and the solvent removed under reduced pressure to give the title compound as a slightly hygroscopic solid. (6.7 mg).

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 70 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}butyl methanesulfonate | 70 mg | CS(=O)(=O)OCCCCC1=NN=C(N1C)SCC1CC1 | C12H21N3O3S2
reactant | Sodium Iodide | 12 mg | [I-].[Na+]
reactant | potassium carbonate | 35 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | (1S,5R)-3-(4-{5-[(cyclopropylmethyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}butyl)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride | 5.5 mg | Cl.C1(CC1)CSC=1N(C(=NN1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C23H29F3N4S.ClH/c1-29-20(27-28-21(29)31-14-16-5-6-16)4-2-3-11-30-13-19-12-22(19,15-30)17-7-9-18(10-8-17)23(24,25)26;/h7-10,16,19H,2-6,11-15H2,1H3;1H/t19-,22+;/m0./s1
